US04123455
A solution of 10 g of 5-aminosalicylic acid, 100 ml of methanol and 5 ml of sulfuric acid are refluxed overnight. The reaction mixture is cooled, basified with sodium carbonate and the methanol is evaporated. The resulting solid is washed with water and dried giving 4.0 g of methyl-5-aminosalicylic acid.

reactant | 5-aminosalicylic acid | 10 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | methyl-5-aminosalicylic acid | 4.0 g | COC=1C(C(=O)O)=CC(=CC1)N | C8H9NO3
